data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,10172,"O[CH:1]=[SH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8974,"CC[C:1]#[NH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1704,"Br[C:1]1([H:2])C2=CC=CC=C2[C+:3](Br)[CH:4]=[CH:5]1.[Br-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,6447,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCCCC1C1=CC=CC=C1)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7227,"CC(C)[N:1](C)C.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8605,"C[N:1](C)C1=CC=CC=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4672,"CCC(C)(C)[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,10055,"CON1C(=O)C2(CC([C:1](=[O:2])[OH:3])C3COC2C(=O)C3)C2=C1C=CC=C2.O=C(Cl)[C:4](Cl)=[O:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6323,"CC[S+:1](CC=C(C)[O-])[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7072,"C1=CC=C(C=C[C:1](C2=CC=CC=C2)=[O:2])C=C1.CC[CH2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4].[Li+]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9745,"OCCC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9822,"CNC(=O)[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2000,"O=C1CCCC(=O)C1CC(C1=CC=CC=C1)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7371,"C1[CH:1]([O-:2])[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5943,"C[P+](C)(C)[CH-:1][CH2:2][OH+:3][K]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1826,"CC[Si](CC)(OC(C[CH:1]=[O+:2][Si](C)(C)C)C1=CC=CC=C1)[CH:3]=[CH:4]C[Si](C)(C)C.O=S(=O)([O-])C(F)(F)F|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10396,"O=C1CC[C:1](=[OH+:2])[N:3]1[Br:4].[Br-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,229,"O=S(=O)(O)[C:1]1([H:2])C=C[C+:3](CC=CCO)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,1262,"CC([OH2+])CCC1CCCC1.C[CH:1](CCC1CCCC1)[O:2]S(=O)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2210,"COC(CCCC=CCB1OC(C)(C)C(C)(C)O1)[O:1]C.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5382,"C[P:1](C)C.[CH2:2]=[CH:3][CH:4]=[O:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9227,"CC1CCC(S(=O)(=O)[C:1](=[C:2]2CCCC2)[N-:3]C=O)CC1.CC[O:4][H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4794,"CC(=O)O[BH-](OC(C)=O)OC(C)=O.CC(=O)[O:1][H:2].O=C(OC1CC[C:3]([N:4]2CCN(C3=CC=CC=C3)CC2)=[CH:5]C1)C1=CC=CC=C1.[Na+]|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9341,"CO[PH:1](I)(OC)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,643,"O[P:1](O)(O)(O)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8354,"CC(C)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,8584,"C=CC(C)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4159,"COC1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7196,"COC(=[O+][Li:1])C1CC1SC(C)(C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,4896,"CC(C)(C)C(=O)[O:1][H:2].CCO.CCOC(C)(OCC1=CC(O[Si](C)(C)C(C)(C)C)C2(C)C(=O)OCC12C)[O:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6191,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[CH2:2][O:3]S(=O)(=O)C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9088,"CO.COC1CCCC1[CH+:1][CH2:2][B-:3]1(OC(=O)C(F)(F)F)OC(C)(C)C(C)(C)O1|((3, 2), 1)"
train,pmechdb_split_0,0,9632,"CCO[P:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7077,"CCN(CC)[C:1](C)=[OH+:2].CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1074,"CC(CC(=O)C1=CC(Br)=CC=C1)(C1=CC(Br)=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7959,"NCCCC1CCCC[C:1]1=[O:2].[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9472,"C#CC[Si](C)(C)C.CCOC(=O)N(CC1=CC=CC=C1)C(C1=CC=CC=C1)[O:1]CC.C[CH2][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,4134,"C[Si](C)(C)C[CH:1]=[CH2:2].[Cl][Ti-]([Cl])([Cl])([Cl])[O+:3]=[C:4]1C=CCCC1|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7245,"CCC[O+:1](C)[B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,7844,"C=[O:1].C[C+]=C[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,8587,"C1=CC(N2CCCC2)=CC=N1.CCOC(=O)CC=CC[O+:1](C(=O)CC1=CC=CC=C1)[H:2].O=C(NC1CCCCC1)[N-:3]C1CCCCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7627,"CCN(CC)CC.O=[N+]([O-])[C:1]1=[C:2](OP(=O)(Cl)Cl)[NH+:3]=[C:4]2C=CC=C[C:5]2=[C:6]1O.[Cl-:7]|(7, 2);((2, 1), 6);((6, 5), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7790,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COC1=CC=C(CC[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1715,"C[OH:1].N[C:2](C1=CC=CC=C1)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8848,"CC[O-:1].O=[N+]([O-])C1=CC=C(CC[CH2:2][Br:3])C=C1F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8759,"CC(C)(C)[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7921,"O=[N+]([O-])[CH:1]([H:2])[C:3](CC1=CC=CC=C1)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2317,"[Li][O+:1]=[CH:2][CH2-:3]|(3, 2);((2, 1), 1)"
